US07473784B2
To a solution of 2,6-dichloropyridin-3-amine (3.71 g, 22.8 mmol, 1.0 eq.) and isopropyl isothiocyanate (2.5 mL, 23.5 mmol, 1.0 eq.) in DMF (57 mL) under nitrogen at 0° C. was added NaH (95% in mineral oil, 0.77 g, 30.5 mmol, 1.3 eq.). After 10 min., the cold bath was removed, and the reaction mixture was stirred to room temperature for 10 min. It was then heated at 68° C. overnight. After cooling to 0° C., isopropyl isothiocyanate (1.5 mL) and NaH (0.44 g) were added, and heating was resumed. After 7.25 h, the reaction was cooled to room temperature. At 0° C., aqueous HCl (1 N), water and EtOAc were added, and the reaction mixture was stirred. The layers were separated, and the organic layer was washed with saturated aqueous NaHCO3 and brine, dried over Na2SO4, filtered and concentrated in vacuo. Trituration with Et2O afforded 5-chloro-N-isopropylthiazolo[5,4-b]pyridin-2-amine as a white solid (3.43 g, 66% yield).

reactant | 2,6-dichloropyridin-3-amine | 22.8 mmol, 3.71 g, 1.0 eq. | ClC1=NC(=CC=C1N)Cl | C5H4Cl2N2
reactant | isopropyl isothiocyanate | 23.5 mmol, 2.5 mL, 1.0 eq. | C(C)(C)N=C=S | C4H7NS
reactant | NaH | 30.5 mmol, 0.77 g, 1.3 eq. | [H-].[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | DMF | 57 mL | CN(C)C=O | C3H7NO
product | 5-chloro-N-isopropylthiazolo[5,4-b]pyridin-2-amine | 3.43 g, 66% yield | ClC1=CC=C2C(=N1)SC(=N2)NC(C)C | C9H10ClN3S
